US07211573B2
A solution of 0.85 g (2.74 mmol) ((S)-2-fluoro-9-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-carbamic acid tert-butyl ester in 20 ml dichloromethane was treated with 21 ml trifluoroacetic acid for 3 hours. Extraction with aqueous sodium bicarbonate solution and dichloromethane and removal of the solvent gave 0.52 g (90%) (S)-7-amino-2-fluoro-9-methyl-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one as white solid, MS m/e (%): 211.3 (M+H+, 100).

reactant | ((S)-2-fluoro-9-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-carbamic acid tert-butyl ester | 2.74 mmol, 0.85 g | C(C)(C)(C)OC(N[C@H]1COC2=C(N(C1=O)C)C=C(C=C2)F)=O | C15H19FN2O4
reactant | trifluoroacetic acid | 21 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (S)-7-amino-2-fluoro-9-methyl-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one | 0.52 g, 90% | N[C@H]1COC2=C(N(C1=O)C)C=C(C=C2)F | C10H11FN2O2
